US04704459
To 4 ml of toluene was added 245 mg of (N,N-dimethylformamide-dimethyl sulfate) complex compound, and 66 mg of sodium methoxide was added thereto with ice-cooling after which the resulting mixture was subjected to reaction at room temperature for 30 minutes. Subsequently, 200 mg of ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate was added thereto, and the resulting mixture was subjected to reaction under reflux for 5 hours. To the reaction mixture were added 20 ml of chloroform and 20 ml of water, and the organic layer was separated, washed with 20 ml of saturated aqueous sodium chloride solution, and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and the residue thus obtained was purified by a column chromatography [Wako Silica Gel C-200, eluant: chloroform-ethanol (50:1 by volume)] to obtain 190 mg (yield 84.9%) of ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]-3 -(N,N-dimethylamino)acrylate having a melting point of 184°-186° C.

reactant | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide dimethyl sulfate | CN(C=O)C.S(=O)(=O)(OC)OC
reactant | sodium methoxide | 66 mg | C[O-].[Na+]
reactant | ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]acetate | 200 mg | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)CC(=O)OCC)C=C1F)NC1=C(C=C(C=C1)F)F | C22H23F3N4O4
solvent | water | 20 ml | O | H2O
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 2-[6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinoyl]-3 -(N,N-dimethylamino)acrylate | 190 mg, yield 84.9% | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)C(C(=O)OCC)=CN(C)C)C=C1F)NC1=C(C=C(C=C1)F)F | C25H28F3N5O4
